US06150373
A stirred solution, cooled in ice, of 5.8 ml (11.2 mmol) of phosgene (20% in toluene) in 80 ml of tetrahydrofuran was treated dropwise with a solution of 1.76 g (5.6 mmol) of 5-(2,6-dichlorophenyl)aminomethyl-4-amino-2-methylthiopyrimidine and 1.6 ml (11.2 mmol) of triethylamine in 80 ml of tetrahydrofuran. The mixture was stirred for 1 hour. 50 ml of tetrahydrofuran and 50 ml of saturated aqueous ammonium chloride solution were added. The phases were separated and the organic phase was washed with saturated aqueous ammonium chloride solution, dried over magnesium sulfate, filtered and evaporated to give 1.7 g (89%) of 3-(2,6-dichlorophenyl)-7-methylthio-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one as a white solid.

reactant | phosgene | 11.2 mmol, 5.8 ml | C(=O)(Cl)Cl | CCl2O
reactant | 5-(2,6-dichlorophenyl)aminomethyl-4-amino-2-methylthiopyrimidine | 5.6 mmol, 1.76 g | ClC1=C(C(=CC=C1)Cl)NCC=1C(=NC(=NC1)SC)N | C12H12Cl2N4S
reactant | triethylamine | 11.2 mmol, 1.6 ml | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-(2,6-dichlorophenyl)-7-methylthio-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 1.7 g, 89% | ClC1=C(C(=CC=C1)Cl)N1C(NC2=NC(=NC=C2C1)SC)=O | C13H10Cl2N4OS
